US09388161B2
A mixture of tert-butyl 4-[2-[(2S)-5-cyclobutoxy-1-cyclopropanecarbonyl-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl]-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-imidazol-5-yl]-1,2,3,6-tetrahydropyridine-1-carboxylate (0.094 g, 0.14 mmol) and palladium on carbon (10 wt %, 0.047 g) in methanol (4 mL) stirred under a hydrogen atmosphere at room temperature for 30 minutes. The reaction mixture was filtered, and the filtrate was concentrated under vacuum to afford tert-butyl 4-(2-((S)-5-cyclobutoxy-1-(cyclopropanecarbonyl)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)piperidine-1-carboxylate (0.094 g, 100%) as a light yellow solid. MS (ESI, pos. ion) m/z 665 [M+H]+.

reactant | tert-butyl 4-[2-[(2S)-5-cyclobutoxy-1-cyclopropanecarbonyl-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl]-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-imidazol-5-yl]-1,2,3,6-tetrahydropyridine-1-carboxylate | 0.14 mmol, 0.094 g | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1C=1N(C(=CN1)C=1CCN(CC1)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C(=O)C1CC1)C | C37H54N4O5Si
catalyst | palladium on carbon | 0.047 g | [Pd] | Pd
solvent | methanol | 4 mL | CO | CH4O
product | tert-butyl 4-(2-((S)-5-cyclobutoxy-1-(cyclopropanecarbonyl)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)piperidine-1-carboxylate | 0.094 g, 100% | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1C=1N(C(=CN1)C1CCN(CC1)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C(=O)C1CC1)C | C37H56N4O5Si
